US04103018
2-[4-(Hexafluoro-2-Hydroxy-2-Propyl)Anilino]-2-Oxazolin-4-One
To 1-(2-chloroacetyl)-3-[4-(hexafluoro-2-hydroxy-2-propyl)phenyl] urea (9.7 gm., 0.026 mole) in dimethoxyethane (500 ml) add potassium t-butoxide (5.7 gm., 0.051 mole). Stir 16 hr., concentrate, add water, acidify with conc. HCl, neutralize with sodium bicarbonate and extract with ether. Dry, concentrate, and recrystallize the residue from ether, to obtain the product, m.p. 272°-274° C.

reactant | 1-(2-chloroacetyl)-3-[4-(hexafluoro-2-hydroxy-2-propyl)phenyl] urea | 0.026 mole, 9.7 gm | ClCC(=O)NC(=O)NC1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O | C12H9ClF6N2O3
reactant | potassium t-butoxide | 0.051 mole, 5.7 gm | CC(C)([O-])C.[K+]
solvent | dimethoxyethane | 500 ml | C(OC)COC | C4H10O2
product | 2-[4-(Hexafluoro-2-Hydroxy-2-Propyl)Anilino]-2-Oxazolin-4-One | FC(C(C(F)(F)F)(O)C1=CC=C(NC=2OCC(N2)=O)C=C1)(F)F | C12H8F6N2O3
